US08034811B2
O-(2-Benzenesulfonylmethyl-benzyl)-hydroxylamine
Prepared by the same procedure as described for preparation 15, starting from N-hydroxyphthalimide and 1-(bromomethyl)-2-[(phenylsulfonyl)methyl]benzene (Aldrich).

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 1-(bromomethyl)-2-[(phenylsulfonyl)methyl]benzene | BrCC1=C(C=CC=C1)CS(=O)(=O)C1=CC=CC=C1 | C14H13BrO2S
product | O-(2-Benzenesulfonylmethyl-benzyl)-hydroxylamine | C1(=CC=CC=C1)S(=O)(=O)CC1=C(CON)C=CC=C1 | C14H15NO3S
